US07786165B2
3-[4-({3-[(3,5-di-tert-butyl-1H-pyrazol-1-yl)methyl]-4-isobutoxybenzyl}amino)-2-fluorophenyl]propanoic acid
To a mixture of ethyl 3-[4-({3-[(3,5-di-tert-butyl-1H-pyrazol-1-yl)methyl]-4-isobutoxybenzyl}amino)-2-fluorophenyl]propanoate (0.62 g, 1.16 mmol), methanol (6 mL) and tetrahydrofuran (12 mL) was added 1 M aqueous sodium hydroxide solution (2.32 mL), and the mixture was stirred at room temperature for 2 hr. The reaction mixture was neutralized with 1M hydrochloric acid, and diluted with ethyl acetate, and the organic layer was washed with saturated brine, dried, and concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=4/1-hexane/ethyl acetate=1/4) to give the title compound (0.52 g, yield 83%) as colorless crystals.

reactant | ethyl 3-[4-({3-[(3,5-di-tert-butyl-1H-pyrazol-1-yl)methyl]-4-isobutoxybenzyl}amino)-2-fluorophenyl]propanoate | 1.16 mmol, 0.62 g | C(C)(C)(C)C1=NN(C(=C1)C(C)(C)C)CC=1C=C(CNC2=CC(=C(C=C2)CCC(=O)OCC)F)C=CC1OCC(C)C | C34H48FN3O3
reactant | methanol | 6 mL | CO | CH4O
reactant | sodium hydroxide | 1 M, 2.32 mL | [OH-].[Na+]
reactant | hydrochloric acid | 1M | Cl | ClH
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | tetrahydrofuran | 12 mL | O1CCCC1 | C4H8O
product | 3-[4-({3-[(3,5-di-tert-butyl-1H-pyrazol-1-yl)methyl]-4-isobutoxybenzyl}amino)-2-fluorophenyl]propanoic acid | 0.52 g, yield 83% | C(C)(C)(C)C1=NN(C(=C1)C(C)(C)C)CC=1C=C(CNC2=CC(=C(C=C2)CCC(=O)O)F)C=CC1OCC(C)C | C32H44FN3O3
